US07691855B2
Step 33.3: 4-[3-(2,4-Dichloro-phenyl)-1H-pyrazol-4-yl]-2-methylsulfanyl-pyrimidine
The title compound is prepared from 1-(2,4-dichloro-phenyl)-2-(2-methylsulfanyl-pyrimidin-4-yl)-ethanone as described in Example 1, Step 1.3, using N,N-dimethylformamid-dimethylacetal and hydrazine monohydrate. Title compound: m.p.: 218-219° C.; single peak at 6.07 min (System 1).

reactant | 1-(2,4-dichloro-phenyl)-2-(2-methylsulfanyl-pyrimidin-4-yl)-ethanone | ClC1=C(C=CC(=C1)Cl)C(CC1=NC(=NC=C1)SC)=O | C13H10Cl2N2OS
reactant | N,N-dimethylformamid-dimethylacetal | COC(N(C)C)OC | C5H13NO2
reactant | hydrazine monohydrate | O.NN
product | 4-[3-(2,4-Dichloro-phenyl)-1H-pyrazol-4-yl]-2-methylsulfanyl-pyrimidine | ClC1=C(C=CC(=C1)Cl)C1=NNC=C1C1=NC(=NC=C1)SC | C14H10Cl2N4S
